US06620944B1
Preparation of N′-(2,6-dichloro-4-trifluoromethylphenyl)-chloroacetohydrazonoyl chloride
Phosphoryl chloride (500 microlitres, 1.7 equivalents) was added in one portion to a stirred solution of N′-(2,6-dichloro-4-trifluoromethylphenyl)-chloroacetohydrazide (1.0 g, 3.11 mmol) in toluene (20 ml) and heated at 70° C. under an argon atmosphere for 20 hours. The cooled mixture was evaporated and the residue extracted with cyclohexane. The extracts were combined and evaporated to give the title compound (0.971 g) as an orange oil, NMR 4.4(s,2H), 7.55(s,2H), 7.7(s,1H). The yield was 90%.

reactant | Phosphoryl chloride | 500 microlitres, 1.7 equivalents | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N′-(2,6-dichloro-4-trifluoromethylphenyl)-chloroacetohydrazide | 3.11 mmol, 1.0 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)NNC(CCl)=O | C9H6Cl3F3N2O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | N′-(2,6-dichloro-4-trifluoromethylphenyl)-chloroacetohydrazonoyl chloride | 0.971 g, yield was 90% | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)NN=C(CCl)Cl | C9H5Cl4F3N2
